US07034042B2
A solution of E)-N-{(R)-1-aminomethyl-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide.HCl salt (0.35 g, 0.66 mmol) and triethylamine (0.27 ml, 1.99 mmol) in DCM (5 ml) is treated with acetyl chloride (0.042 ml, 0.6 mmol) at 5° C. The reaction mixture is stirred at ambient temperature for 1 hour then washed with water, saturated aqueous NaHCO3 and brine. The organic phase is dried over MgSO4 and the solvent evaporated. The crude product is purified by flash chromatography (elution methanol:DCM; 4:96) to afford (E)-N-{(R)-1-(acetylamino-methyl)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide. [MH]+ 495.0.

reactant | N-{(R)-1-aminomethyl-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide | NC[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(C=CC1=C(C=CC(=C1)C#N)OC)=O | C25H29FN4O3
reactant | HCl | 0.66 mmol, 0.35 g | Cl | ClH
reactant | triethylamine | 1.99 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.6 mmol, 0.042 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (E)-N-{(R)-1-(acetylamino-methyl)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide | C(C)(=O)NC[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(\C=C\C1=C(C=CC(=C1)C#N)OC)=O | C27H31FN4O4
